US09415045B2
IMS (50 mL) and water (16 mL) were degassed thoroughly. tert-Butyl 4-bromophenethylcarbamate (3.52 g, 11.7 mmol), sodium carbonate (5.0 g, 46.9 mmol), palladium tetrakis (1.35 g, 1.2 mmol) and 1-benzyl-1H-pyrazole-4-boronic acid pinacol ester (5.0 g, 17.6 mmol) were added and the reaction mixture heated to 90° C. overnight. The reaction was partitioned between ethyl acetate (500 mL) and water (250 mL) and brine (250 mL), then dried (MgSO4). Filtration and removal of the solvent gave the crude residue which was subject to column chromatography (50% ethyl acetate/heptane) to give tert-butyl 4-(6-oxo-1,6-dihydropyridin-3-yl)phenethylcarbamate (4.2 g, 11.1 mmol, 95% yield).

reactant | tert-Butyl 4-bromophenethylcarbamate | 11.7 mmol, 3.52 g | BrC1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C13H18BrNO2
reactant | sodium carbonate | 46.9 mmol, 5.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-benzyl-1H-pyrazole-4-boronic acid pinacol ester | 17.6 mmol, 5.0 g | C(C1=CC=CC=C1)N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C16H21BN2O2
catalyst | palladium tetrakis | 1.2 mmol, 1.35 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
product | tert-butyl 4-(6-oxo-1,6-dihydropyridin-3-yl)phenethylcarbamate | 11.1 mmol, 4.2 g, 95% yield | O=C1C=CC(=CN1)C1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C18H22N2O3
